US20010027161A1
Dioctadecylmethylammonium bis(tris(pentafluorophenyl)borane)-1,2,4-triazolide ([(C18H37)2CH3NH][((C6F5)3B)2C7H5N2])
1,2,4-triazole (0.1 349 g, 1.953 mmol), tris(pentafluorophenyl)borane (2.0000 g, 3.9063 mmol) and dioctadecylmethylamine (1.0469 g, 1.9531 mmol) were placed in a 50 mL flask, taken up in 21 mL of toluene and refluxed under argon for 5 hours. The volatiles were then stripped under vacuum. Yield, 2.702 g, 84.92 percent.

reactant | 1,2,4-triazole | 1.953 mmol, 349 g | N1N=CN=C1 | C2H3N3
reactant | tris(pentafluorophenyl)borane | 3.9063 mmol, 2.0000 g | FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F | C18BF15
reactant | dioctadecylmethylamine | 1.9531 mmol, 1.0469 g | C(CCCCCCCCCCCCCCCCC)N(C)CCCCCCCCCCCCCCCCCC | C37H77N
solvent | toluene | 21 mL | C1(=CC=CC=C1)C | C7H8
product | Dioctadecylmethylammonium bis(tris(pentafluorophenyl)borane) 1,2,4-triazolide | FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.FC1=C(C(=C(C(=C1B(C1=C(C(=C(C(=C1F)F)F)F)F)C1=C(C(=C(C(=C1F)F)F)F)F)F)F)F)F.C(CCCCCCCCCCCCCCCCC)[NH+](C)CCCCCCCCCCCCCCCCCC.N1N=[C-]N=C1 | InChI=1S/C37H77N.2C18BF15.C2H2N3/c1-4-6-8-10-12-14-16-18-20-22-24-26-28-30-32-34-36-38(3)37-35-33-31-29-27-25-23-21-19-17-15-13-11-9-7-5-2;2*20-4-1(5(21)11(27)16(32)10(4)26)19(2-6(22)12(28)17(33)13(29)7(2)23)3-8(24)14(30)18(34)15(31)9(3)25;1-3-2-5-4-1/h4-37H2,1-3H3;;;1H,(H,3,4,5)/q;;;-1/p+1
